US08686005B2
6-(1-Cyclopropylmethyl-piperidin-4-yl)-2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one:
To a solution of the TFA salt of 2-(4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl)-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one (40 mg, 0.061 mmol) and cyclopropanecarbaldehyde (150 μL, 2.0 mmol) in a mixed solvent of CH3CN (6 mL) and H2O (2 mL) was added AcOH (500 μL) at 0° C. and the resulting reaction mixture was stirred at 0° C. for 20 min and followed by addition of Na(OAc)3BH (254 mg, 1.2 mmol). The reaction mixture was stirred at 0° C. for 1 h and at the room temperature for 1 h and then evaporated. The residue was subjected to HPLC purification to afford the title compound in TFA salt form. 1H NMR (DMSO-d6) δ 0.39 (m, 2H), 0.67 (m, 2H), 1.10 (m, 1H), 2.03 (m, 2H), 2.12 (m, 2H), 2.19 (s, 3H, CH3), 2.21 (s, 3H, CH3), 3.01 (m, 2H), 3.18 (m, 2H), 3.50-4.15 (7H), 4.32 (m, 1H), 4.47 (s, 2H), 6.22 (d, J=7 Hz, 1H), 6.80 (d, J=7 Hz, 1H), 6.91 (d, J=7 Hz, 1H), 6.97 (s, 1H), 7.38 (d, J=7 Hz, 1H), 7.57 (br s, 1H), 7.82 (br s, 1H), 11.13 (br s, 1H, NH), 11.22 (br d, J=6 Hz, 1H, NH); ESI-MS m/z 597.3 (MH+).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-(4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl)-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | 0.061 mmol, 40 mg | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCNCC2)O)C=CC(=C1)C | C30H34N6O4
reactant | cyclopropanecarbaldehyde | 2.0 mmol, 150 μL | C1(CC1)C=O | C4H6O
reactant | Na(OAc)3BH | 1.2 mmol, 254 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | AcOH | 500 μL | CC(=O)O | C2H4O2
solvent | H2O | 2 mL | O | H2O
solvent | CH3CN | 6 mL | CC#N | C2H3N
product | 6-(1-Cyclopropylmethyl-piperidin-4-yl)-2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | C1(CC1)CN1CCC(CC1)N1C(C=2C=C3NC(=NC3=CC2C1)C=1C(NC=CC1NC[C@H](COC1=C(C=C(C=C1)C)C)O)=O)=O | C34H40N6O4
